US04146715
A mixture of guanine (2.0g), ammonium sulfate (1.5g), and hexamethyldisilazane (126g) was heated at reflux under nitrogen overnight. Excess hexamethyldisilazane was removed by distillation at reduced pressure. Dry benzene (10ml) was added to the residual oil and any remaining ammonium sulfate removed by filtration. To this solution was added triethylamine (4ml) and a solution of 2-benzoyloxyethoxymethyl chloride (2.8g) in dry benzene (15ml) and the mixture heated at reflux under nitrogen overnight. The solvent was evaporated in a rotary evaporator at reduced pressure and the residue dissolved in 95% ethanol. The solution was warmed on a steam bath for 1/2 hour to effect hydrolysis of the silyl groups. The ethanol was then evaporated and the residual solid thoroughly washed with water, filtered and dried. Recrystallization from methanol and then from water (residual guanine was insoluble in the hot solvents and was removed by filtration) afforded 9-(2-benzoyloxyethoxymethyl)guanine (0.58g., 14% of theoretical), m.p. 222°-226° C. A later condensation of the tris-(trimethylsilyl)guanine with a 60% excess of 2-benzoyloxyethoxymethyl chloride gave a 32% yield of 9-(2-benzoyloxyethoxymethyl)guanine.

reactant | tris-(trimethylsilyl)guanine | C[Si](C)(C)C1=NC=2N=C(NC(C2N1)=O)N([Si](C)(C)C)[Si](C)(C)C | C14H29N5OSi3
reactant | 2-benzoyloxyethoxymethyl chloride | C(C1=CC=CC=C1)(=O)OCCOCCl | C10H11ClO3
product | 9-(2-benzoyloxyethoxymethyl)guanine | 32% yield | C(C1=CC=CC=C1)(=O)OCCOCN1C=2N=C(NC(C2N=C1)=O)N | C15H15N5O4
